US07109186B2
Compound 863: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (4-fluoro-2-trifluoromethyl-benzyl)-methoxy-amide
Reaction of 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-(4-fluoro-2-trifluoromethylbenzyl)-N-methoxy-acetamide (0.14 g, 0.37 mmol) with the paraformaldehyde-methylamine adduct in methanol using a procedure similar to the one described in the preparation of compound 44 (method 44B) gave 0.056 g (42% yield) of the title compound as white crystals; mp 167° C. (dec) (ethyl acetate-hexane). 1HNMR 400 MHz (CDCl3) δ (ppm); 3.13 (3H, s, NCH3), 3.71 (3H, s, OCH3), 4.21 (2H, s, NCH2), 5.09 (2H, s, NCH2), 7.22–7.27 (1H, m, aromatic), 7.39–7.46 (2H, m, aromatics). Anal. Calcd for C15H14F4N2O4: C, 49.73; H, 3.89; N, 7.73. Found: C, 49.74; H, 3.92; N, 7.70.

reactant | 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-(4-fluoro-2-trifluoromethylbenzyl)-N-methoxy-acetamide | 0.37 mmol, 0.14 g | CC1(OC(C(O1)=CC(=O)N(OC)CC1=C(C=C(C=C1)F)C(F)(F)F)=O)C | C16H15F4NO5
reactant | paraformaldehyde methylamine | C=O.CN
reactant | methanol | CO | CH4O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (4-fluoro-2-trifluoromethyl-benzyl)-methoxy-amide | 0.056 g, 42% yield | FC1=CC(=C(CN(C(=O)C=2CN(C(C2O)=O)C)OC)C=C1)C(F)(F)F | C15H14F4N2O4
